US08912186B2
The solution of ethyl 4-chlorocinnamate (12.6 g) and N,N,N′,N′-tetramethylguanidine (1.2 g) in nitromethane (36.6 g) was kept at rt for three days. The excess of nitromethane was evaporated and the residue dissolved in diethyl ether (250 ml). The organic layer was washed with 2M HCl (2×150 ml), dried (sodium sulfate), and evaporated. The residue was subjected to purification by flash chromatography on silica gel (petrol ether/ethyl acetate 10:1) to give ethyl 3-(4-chlorophenyl)-4-nitrobutanoate (15.1 g) as yellowish oil.

reactant | ethyl 4-chlorocinnamate | 12.6 g | ClC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11ClO2
reactant | N,N,N′,N′-tetramethylguanidine | 1.2 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | nitromethane | 36.6 g | [N+](=O)([O-])C | CH3NO2
product | ethyl 3-(4-chlorophenyl)-4-nitrobutanoate | 15.1 g | ClC1=CC=C(C=C1)C(CC(=O)OCC)C[N+](=O)[O-] | C12H14ClNO4
